US09085555B2
3-[({(2S,4R)-1-[2-(3-Acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid
To 3-[({(2S,4R)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid methyl ester Example 523 (35.0 mg, 0.066 mmol) in THF-MeOH—H2O (ratio 2:1:1; 1 mL) was added LiOH.H2O (2.76 mg, 0.066 mmol). The reaction mixture was stirred at RT for 4 h. Volatiles were evaporated and the residue was taken up in water, Acidification to pH=1 by addition of a 6M HCl solution formed a precipitate which was filtered and dried at 50° C. in vacuo for 1 h to afford the title compound as a solid. MS: 518.0 [M+H]+; tR (HPLC conditions c): 4.26 min.

reactant | 3-[({(2S,4R)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)Cl)F)CNC(=O)[C@H]1N(C[C@@H](C1)F)C(CN1C=C(C2=CC=CC=C12)C(C)=O)=O)=O | C26H24ClF2N3O5
reactant | LiOH.H2O | 0.066 mmol, 2.76 mg | O[Li].O
solvent | THF MeOH—H2O | 1 mL | C1CCOC1.CO.O
product | 3-[({(2S,4R)-1-[2-(3-Acetyl-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carbonyl}-amino)-methyl]-5-chloro-4-fluoro-benzoic acid | C(C)(=O)C1=CN(C2=CC=CC=C12)CC(=O)N1[C@@H](C[C@H](C1)F)C(=O)NCC=1C=C(C(=O)O)C=C(C1F)Cl | C25H22ClF2N3O5
